US08710043B2
Step 2. 2-(Benzyloxy)-3-nitro-6-vinylpyridine
To a stirred mixture of (2-(benzyloxy)-6-chloro-3-nitropyridine (3.2 g, 0.0123 mol) in toluene (32.5 mL) in a 250 mL sealed tube, were added Pd(PPh3)4 (426 mg, 0.000369 mol, Aldrich) and vinyl tributyltin (3.90 g, 0.0123 mol). The tube was purged with the argon gas for 10 min, capped and stirred for 12 h at 110° C. After completion of the reaction (monitored by TLC, 10% EtOAc in hexane), the reaction mixture was quenched with water (20 mL) and extracted with EtOAc (50 mL×3). The organic layers were combined, dried over anhydrous sodium sulfate, and purified by column chromatography, silica gel (60-120 mesh) using 5-7% EtOAc in petroleum ether as an eluent to afford the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 8.47 (d, J=8.1 Hz, 1H), 7.52 (d, J=6.9 Hz, 1H), 7.43-7.27 (m, 3H), 7.20 (br. s., 2H), 6.92-6.83 (m, 1H), 6.49 (dd, J=17.4, 1.5 Hz, 1H), 5.74 (dd, J=10.5, 1.5 Hz, 1H), 5.59 (s, 2H). MS (ESI, positive ion) m/z: 257 (M+H).

reactant | 2-(benzyloxy)-6-chloro-3-nitropyridine | 0.0123 mol, 3.2 g | C(C1=CC=CC=C1)OC1=NC(=CC=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | vinyl tributyltin | 0.0123 mol, 3.90 g | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 32.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.000369 mol, 426 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(Benzyloxy)-3-nitro-6-vinylpyridine | C(C1=CC=CC=C1)OC1=NC(=CC=C1[N+](=O)[O-])C=C | C14H12N2O3
